US09126998B2
3-Bromo-N-[4-(trifluoromethyl)phenyl]propanamide
22.3 ml of 4-(trifluoromethyl)aniline (29 g, 179.6 mmol, 1 equivalent) were reacted with 19.6 ml (30 g, 179.6 mmol, 1 equivalent) of methyl 3-bromopropanoate and worked up analogously to Example 152A. The crude product obtained was then purified on a silica gel column (mobile phase: dichloromethane). This gave 20.3 g (37% of theory) of the title compound.

reactant | 4-(trifluoromethyl)aniline | 179.6 mmol, 22.3 ml, 29 g, 1 equivalent | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | methyl 3-bromopropanoate | 179.6 mmol, 19.6 ml, 30 g, 1 equivalent | BrCCC(=O)OC | C4H7BrO2
product | 3-Bromo-N-[4-(trifluoromethyl)phenyl]propanamide | BrCCC(=O)NC1=CC=C(C=C1)C(F)(F)F | C10H9BrF3NO
